US05763458
Magnesium (236 g, 9.71 mol) was suspended in 3.5 L of THF under nitrogen and 1-bromo-4-chlorobutane (1.11 L, 8.68M, 9.63 mol) was added at a rate such that the temperature of the mixture remained below 25° C. A solution of N-methoxy-N-methyl-4-amino-5-chloro-2-methoxybenzamide (400 g, 1.64 mol), prepared as in Example 2, under nitrogen in 4 L of THF was cooled to -20° C. and 410 mL of chlorotrimethylsilane was added. The mixture was allowed to warm to between -12 and 30° C. and then 2.5 L of the solution containing the magnesium and 1-bromo-2-chlorobutane was added over approximately 20 minutes. The mixture was cooled to 50° C. and then diluted with 420 mL of concentrated hydrochloric acid in 5 L of water. The mixture was heated to 32° C., stirred for 15 minutes and then diluted with approximately 2 L of ethyl acetate. The organic layer was separated and washed sequentially with 2 L of water and 2 L of 1:1 water/saturated sodium chloride solution and saturated sodium chloride solution. All aqueous layers were combined and extracted with ethyl acetate. All organic layers were combined, dried over sodium sulfate, filtered and concentrated. The residue was combined with hot hexane and allowed to stand at room temperature for approximately 12 hours giving a precipitate. The precipitate was isolated by filtration and washed with hexane. Drying in a vacuum oven at between 50 and 55° C. under a nitrogen gas bleed gave 1-(4-amino-5-chloro-2-methoxyphenyl)-5-chloropentan-1-one (365 g, 1.33 mol).

reactant | Magnesium | 9.71 mol, 236 g | [Mg] | Mg
reactant | 1-bromo-4-chlorobutane | 9.63 mol, 8.68M, 1.11 L | BrCCCCCl | C4H8BrCl
reactant | N-methoxy-N-methyl-4-amino-5-chloro-2-methoxybenzamide | 1.64 mol, 400 g | CON(C(C1=C(C=C(C(=C1)Cl)N)OC)=O)C | C10H13ClN2O3
reactant | chlorotrimethylsilane | 410 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | 1-bromo-2-chlorobutane | BrCC(CC)Cl | C4H8BrCl
solvent | THF | 3.5 L | C1CCOC1 | C4H8O
solvent | THF | 4 L | C1CCOC1 | C4H8O
solvent | hydrochloric acid | 420 mL | Cl | ClH
solvent | water | 5 L | O | H2O
solvent | ethyl acetate | approximately 2 L | C(C)(=O)OCC | C4H8O2
product | 1-(4-amino-5-chloro-2-methoxyphenyl)-5-chloropentan-1-one | 1.33 mol, 365 g | NC1=CC(=C(C=C1Cl)C(CCCCCl)=O)OC | C12H15Cl2NO2
